US07012075B2
To N1-(cyanomethyl)-N2-(4-{4-[4-(tert-butoxycarbonyl)piperazin-1-yl]phenyl}-3-methylisoxazol-5-yl)leucinamide (210 mg, 0.411 mmol) in dry THF (0.5 mL) under dry nitrogen was gradually added a total of 5 equivalents of MesO3H (100 μL, 1.37 mmol) over a period of 3 hours in portions of 1–2 equivalents at a time and the reaction mixture was stirred overnight. Aqueous sat. NaHCO3 was added carefully and the product was extracted with EtOAc (2×), dried over Na2SO4, concentrated in vacuo and purified by flash chromatography over silica gel (NH4OH/MeOH/CH2Cl2, 1/9/90) to afford N-(cyanomethyl)-N2-[3-methyl-4-(4-piperazin-1-ylphenyl)isoxazol-5-yl]leucinamide. MS (−ESI): 409.7 [M−1]−.

reactant | N1-(cyanomethyl)-N2-(4-{4-[4-(tert-butoxycarbonyl)piperazin-1-yl]phenyl}-3-methylisoxazol-5-yl)leucinamide | 0.411 mmol, 210 mg | C(#N)CNC([C@@H](NC1=C(C(=NO1)C)C1=CC=C(C=C1)N1CCN(CC1)C(=O)OC(C)(C)C)CC(C)C)=O | C27H38N6O4
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
product | N-(cyanomethyl)-N2-[3-methyl-4-(4-piperazin-1-ylphenyl)isoxazol-5-yl]leucinamide | C(#N)CNC([C@@H](NC1=C(C(=NO1)C)C1=CC=C(C=C1)N1CCNCC1)CC(C)C)=O | C22H30N6O2
